US04042694
2-Benzyl-5,5-dimethyl-10-[4-(morpholino)butyryloxy]-8-(3-methyl-2-octyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride
2-Benzyl-5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, γ-morpholinobutyric acid hydrochloride and dicyclohexyl-carbodiimide are combined in equimolar amounts in methylene chloride and reacted as in Example 1 to give the desired product.

reactant | 2-Benzyl-5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | C(C1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1O)C(C)C(CCCCC)C | C30H41NO2
reactant | γ-morpholinobutyric acid hydrochloride | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexyl-carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Benzyl-5,5-dimethyl-10-[4-(morpholino)butyryloxy]-8-(3-methyl-2-octyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1OC(CCCN1CCOCC1)=O)C(C)C(CCCCC)C | InChI=1S/C38H54N2O4.ClH/c1-6-7-9-13-28(2)29(3)31-24-34(43-36(41)16-12-18-39-20-22-42-23-21-39)37-32-27-40(26-30-14-10-8-11-15-30)19-17-33(32)38(4,5)44-35(37)25-31;/h8,10-11,14-15,24-25,28-29H,6-7,9,12-13,16-23,26-27H2,1-5H3;1H
